US06211234B1
A solution of t-butyl 4-hydroxy-4-(2-methylphenyl)butanoate, thought to be the (R)-enantiomer, (0.5 g) in tetrahydrofuran (3 mL) and methanol (3 mL) is treated with aqueous sodium hydroxide solution (5 N; 0.5 mL) and stirred at ambient temperature for 8 hours. The reaction mixture is concentrated to dryness. The resulting residue is treated with isopropanol (10 mL) and stirred for 30 minutes, and the resulting precipitate is collected and washed with isopropyl ether, to give sodium 4-hydroxy-4-(2-methylphenyl)butanoate, thought to be the (R)-enantiomer, (300 mg) in the form of a white solid, m.p. above 250° C.; 25[α]D=+34° (c=0.01; CH3OH); [NMR(DMSO-d6) (300 MHz):- 1.58-1.75 (m,2H),2.11(m,2H),2.22(s,3H),4.75(m,1H),7.05-7.48 (m.4H).

reactant | t-butyl 4-hydroxy-4-(2-methylphenyl)butanoate | OC(CCC(=O)OC(C)(C)C)C1=C(C=CC=C1)C | C15H22O3
reactant | methanol | 3 mL | CO | CH4O
reactant | sodium hydroxide | 5 N, 0.5 mL | [OH-].[Na+]
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | sodium 4-hydroxy-4-(2-methylphenyl)butanoate | OC(CCC(=O)[O-])C1=C(C=CC=C1)C.[Na+] | InChI=1S/C11H14O3.Na/c1-8-4-2-3-5-9(8)10(12)6-7-11(13)14;/h2-5,10,12H,6-7H2,1H3,(H,13,14);/q;+1/p-1
